US08748418B2
(R)-5-{5-[(4-Chloro-1-difluoromethyl-1H-pyrazol-3-ylmethyl)-amino]-2-fluoro-phenyl}-6,6-difluoro-5-methyl-2,5,6,7-tetrahydro-[1,4]oxazepin-3-ylamine
In an analogous manner as described for example 2 the reductive amination of (R)-5-(5-amino-2-fluorophenyl)-6,6-difluoro-5-methyl-2,5,6,7-tetrahydro-1,4-oxazepin-3-amine (intermediate A10A) (27.3 mg, 100 μmol) and 4-chloro-1-difluoromethyl-1H-pyrazole-3-carbaldehyde (19.9 mg, 110 μmol) yielded the title compound (5 mg, 11.4%) as a colorless oil. MS (ISP): m/z=438.2 [M+H]+and 440.1 [(M+2+H)+].

reactant | (R)-5-(5-amino-2-fluorophenyl)-6,6-difluoro-5-methyl-2,5,6,7-tetrahydro-1,4-oxazepin-3-amine | 100 μmol, 27.3 mg | NC=1C=CC(=C(C1)[C@]1(N=C(COCC1(F)F)N)C)F | C12H14F3N3O
reactant | 4-chloro-1-difluoromethyl-1H-pyrazole-3-carbaldehyde | 110 μmol, 19.9 mg | ClC=1C(=NN(C1)C(F)F)C=O | C5H3ClF2N2O
product | (R)-5-{5-[(4-Chloro-1-difluoromethyl-1H-pyrazol-3-ylmethyl)-amino]-2-fluoro-phenyl}-6,6-difluoro-5-methyl-2,5,6,7-tetrahydro-[1,4]oxazepin-3-ylamine | 5 mg, 11.4% | ClC=1C(=NN(C1)C(F)F)CNC=1C=CC(=C(C1)[C@]1(N=C(COCC1(F)F)N)C)F | C17H17ClF5N5O
